US08217029B2
102.i) (3RS)-[1-(6-Methoxy-[1,5]-naphthyridin-4-yl)-piperidin-3-yl]-carbamic acid tert-butyl ester
According to procedure F and starting from 8-bromo-2-methoxy-[1,5]naphthyridine and (RS)-piperidin-3-yl-carbamic acid tert-butyl ester (commercial) and using 1-pentanol instead of NMP as reaction solvent, the title compound was isolated as an orange oil (2.44 g, 68%).

reactant | 8-bromo-2-methoxy-[1,5]naphthyridine | BrC=1C=CN=C2C=CC(=NC12)OC | C9H7BrN2O
reactant | (RS)-piperidin-3-yl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1CNCCC1)=O | C10H20N2O2
reactant | 1-pentanol | C(CCCC)O | C5H12O
product | (3RS)-[1-(6-Methoxy-[1,5]-naphthyridin-4-yl)-piperidin-3-yl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1CN(CCC1)C1=CC=NC2=CC=C(N=C12)OC)=O | C19H26N4O3
